US08084645B2
Preparation of (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-hydroxy-propoxyimino)-methyl]-benzamide (Compound 15)
N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-[(2-hydroxy-propoxyimino)-methyl]-benzamide (20 mg, 0.029 mmol) prepared in Process B was dissolved in anhydrous tetrahydrofuran (2 mL). Tetra-n-butylammonium fluoride (1 mol/L solution in tetrahydrofuran) (30 μL, 0.03 mmol) was added dropwise at room temperature, and the mixture was stirred for 1.5 hours.

reactant | N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-[(2-hydroxy-propoxyimino)-methyl]-benzamide | 0.029 mmol, 20 mg | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)C=NOCC(C)O)F)F)NC1=C(C=C(C=C1)I)F)=O | C25H33F3IN3O5Si
reactant | Tetra-n-butylammonium fluoride | 0.03 mmol, 1 mol/L, 30 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (E)-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-5-[(2-hydroxy-propoxyimino)-methyl]-benzamide | FC=1C(=C(C(=O)NOCCO)C=C(C1F)/C=N/OCC(C)O)NC1=C(C=C(C=C1)I)F | C19H19F3IN3O5
